US05132307
A solution of 1 g of 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-nitro-1,2,3,4-tetrahydro-3-naphthol in 24 ml of methanol is hydrogenated at 20° and 1 bar over 0.5 g of 5% Pd-on-C until hydrogenation ceases. The mixture is filtered and evaporated and worked up in the customary manner (using dilute sodium hydroxide/methylene dichloride) to give 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-amino-1,2,3,4-tetrahydro-3-naphthol.

reactant | 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-nitro-1,2,3,4-tetrahydro-3-naphthol | 1 g | CC1(CC2=CC=C(C=C2C(C1O)N1C(C=CC=C1)=O)[N+](=O)[O-])C | C17H18N2O4
solvent | methanol | 24 ml | CO | CH4O
catalyst | Pd | 0.5 g | [Pd] | Pd
product | 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-amino-1,2,3,4-tetrahydro-3-naphthol | CC1(CC2=CC=C(C=C2C(C1O)N1C(C=CC=C1)=O)N)C | C17H20N2O2
